US04132737
Seventeen and one-half grams of 5-trifluoromethyl-2-methylaniline was melted and the melted material added to 100 ml. of a cold 48 percent HBF4 solution. 7.9 g. of sodium nitrite in 10 ml. of water were added thereto in dropwise fashion. The temperature of the diazotization reaction was maintained below 15° C. during the addition. The diazotization mixture was stirred in the cold for about 15 minutes and then poured onto a sintered glass funnel. 5-Trifluoromethyl-2-methylphenyldiazonium fluorborate formed in the above reaction was collected thereon as a solid precipitate. The filter cake was washed once with cold HBF4 solution, twice with cold ethanol and several times with cold ether; weight = 20.2 g.; m.p. above 250° C.

reactant | 5-trifluoromethyl-2-methylaniline | FC(C=1C=CC(=C(N)C1)C)(F)F | C8H8F3N
reactant | HBF4 | [H+].[B-](F)(F)(F)F
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 5-Trifluoromethyl-2-methylphenyldiazonium fluorborate | F[B-](F)(F)F.FC(C=1C=CC(=C(C1)[N+]#N)C)(F)F | InChI=1S/C8H6F3N2.BF4/c1-5-2-3-6(8(9,10)11)4-7(5)13-12;2-1(3,4)5/h2-4H,1H3;/q+1;-1
